US05534515
2a. 1-Benzyl-7-(4-fluorobenzyloxy)-3-formyl-2-methylpyrrolo[2,3-d]pyridazine
A solution of 810 mg (1.9 mmol) of 1-benzyl-3-bromo-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine in 30 ml of anhydrous tetrahydrofuran is cooled to -70° C. under argon and treated with 1.65 ml (2.7 mmol) of a 15% strength solution of n-butyllithium in hexane. The mixture is subsequently stirred at -70° C. for a further 30 min. After addition of 215 μl (2.7 mmol) of anhydrous dimethylformamide, the temperature is kept at -70° C. for a further 30 min and subsequently slowly increased to 20° C. The solution is then treated with 100 ml of water and extracted with 3×50 ml of ethyl acetate. The organic extracts are washed with 50 ml of water, dried over magnesium sulfate and concentrated. The residue which remains is chromatographed on silica gel (eluent: ethyl acetate). After concentration of the fractions of Rf=0.4 and crystallization from diisopropyl ether, 150 mg (21%) of the title compound are isolated. M.p.: 136°-141° C.

reactant | 1-benzyl-3-bromo-7-(4-fluorobenzyloxy)-2-methylpyrrolo[2,3-d]pyridazine | 1.9 mmol, 810 mg | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)Br)C | C21H17BrFN3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 2.7 mmol, 215 μl | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-Benzyl-7-(4-fluorobenzyloxy)-3-formyl-2-methylpyrrolo[2,3-d]pyridazine | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C=O)C | C22H18FN3O2
